US08389527B2
To a solution of 6-((trans)-4-aminocyclohexylamino)-N-(6-(benzyloxy)pyrimidin-4-yl)-8-(cyclopropylamino)imidazo[1,2-b]pyridazine-3-carboxamide (30.0 mg, 0.058 mmol) in DCM (2 mL) was added DIEA (0.041 mL, 0.234 mmol) and methyl 2-bromoacetate (13.40 mg, 0.088 mmol). The reaction solution was stirred at 45° C. for 14 hrs. The reaction mixture was concentrated and treated with TFA (0.270 mL, 3.50 mmol) at 65° C. for 1 hr. The reaction mixture was concentrated and diluted with MeOH, and purified by HPLC (Phenomenex Axia Luna 5 micron 30×100 mm) 30% B (Solvent B=90% MeOH-10% H2O-0.1% TFA) to 100% B in A (Solvent A=10% MeOH-90% H2O-0.1% TFA) to obtain methyl 2-((trans)-4-(8-(cyclopropylamino)-3-(6-hydroxypyrimidin-4-ylcarbamoyl)imidazo[1,2-b]pyridazin-6-ylamino)cyclohexylamino)acetate (11 mg, 0.022 mmol, 38.0% yield). LC/MS (Phenomenex Luna 5 micron C18 4.6×30 mm, 0 to 100 B in 2 min with 1 min hold time, Flow rate=5 mL/min, detection at 254 nm, Solvent A: 10% methanol/90% water/0.1% TFA; Solvent B: 10% water/90% methanol/0.1% TFA). Rt=1.295 minutes. [M+H]=496.19. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.43-12.79 (1H, m), 11.67 (1H, s), 9.11 (2H, d, J=4.77 Hz), 8.31 (1H, s), 7.96 (1H, s), 7.63 (1H, s), 6.90-7.18 (2H, m), 5.95 (1H, s), 4.14 (2H, t, J=5.65 Hz), 3.80 (3H, s), 3.53-3.79 (1H, m), 2.91-3.21 (1H, m), 2.21 (2H, d, J=10.79 Hz), 2.10 (2H, d, J=11.54 Hz), 1.61 (2H, br. s.), 1.24 (2H, d, J=12.30 Hz), 0.76 (2H, d, J=5.02 Hz), 0.62 (2H, d, J=2.51 Hz).

reactant | 6-((trans)-4-aminocyclohexylamino)-N-(6-(benzyloxy)pyrimidin-4-yl)-8-(cyclopropylamino)imidazo[1,2-b]pyridazine-3-carboxamide | 0.058 mmol, 30.0 mg | N[C@@H]1CC[C@H](CC1)NC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=NC=NC(=C2)OCC2=CC=CC=C2)NC2CC2 | C27H31N9O2
reactant | DIEA | 0.234 mmol, 0.041 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl 2-bromoacetate | 0.088 mmol, 13.40 mg | BrCC(=O)OC | C3H5BrO2
reactant | TFA | 3.50 mmol, 0.270 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-((trans)-4-(8-(cyclopropylamino)-3-(6-hydroxypyrimidin-4-ylcarbamoyl)imidazo[1,2-b]pyridazin-6-ylamino)cyclohexylamino)acetate | 0.022 mmol, 11 mg, 38.0% yield | C1(CC1)NC=1C=2N(N=C(C1)N[C@@H]1CC[C@H](CC1)NCC(=O)OC)C(=CN2)C(NC2=NC=NC(=C2)O)=O | C23H29N9O4
